US04643990
Starting from dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate (1 g) and hexadecanoyl chloride (620 mg), dibenzyl N-(N-hexadecanoyl-L-valyl)-L-glutamate (800 mg) was obtained as crystals according to a similar manner to that of Example 24.

reactant | dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate | 1 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
reactant | hexadecanoyl chloride | 620 mg | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | dibenzyl N-(N-hexadecanoyl-L-valyl)-L-glutamate | 800 mg | C(CCCCCCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C40H60N2O6
